Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: NEUROLOGY
 
Allergies: 
No Allergies/ADRs on File
 
Attending: ___.
 
Chief Complaint:
? seizure
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Mr. ___ "EU Critical, ___") is a healthy ___ year-old man
who presents after collapsing during a 10K footrace today,
followed by possible seizure while in the ED. 

He had been in his usual state of health prior to the race,
without any recent illnesses or anything out of the ordinary. He
exercises but is not a veteran runner -- he trained for the race
on an indoor treadmill running up to the full 10K. He did not
take any supplements, caffeine or otherwise, and did not alter
his diet prior to the race. 

Initial details of his collapse are unavailable and it may have
been unwitnessed. EMS arrived at 9:30AM and found him 
diaphoretic
and disoriented but able to follow commands. He was near the end
of the course and the outside temperature was ___. His initial
temperature was 101.1F and he was hypotensive to 100/50 with HR
of 108, blood glucose 84, O2 98%, and RR 28. Ice packs were
placed and he was transported to ___.

His temperature was 100.8F on arrival to the ED. He was noted to
have pupil asymmetry (R 4mm, L 1.5mm) so a head CT was ordered
(negative). According to ED staff, following the scan he became
unresponsive, his eyes rolled backwards, mouth opened widely;
head, neck, and arms extended and trembled. It was described 
that
"he looked like he was having a nightmare". He appeared to be
unresponsive for up to 10 seconds, though he was not directly
challenged with any commands during this time. He then was able
to follow commands to raise or lower limbs, grip hands, gaze
where directed, and extend tongue. (After this point, I was
present and able to observe the patient.) Even while he was
following commands, he remained in an unusual position with his
neck holding his head off the pillow, head tilted forwards, 
mouth
maximally open, tense platysma, and eyes widely staring at
midline except when he was following a command to track. His 
arms
were held straight in front of him and slightly abducted, elbows
extended and palms facing down. He abdomen was slightly flexed
and legs were straight. He had diffuse, dyssynchronous trembling
(as in chills) in his extremities that coarsened with muscle
activation during motor exam. He denied feeling cold. He was 
able
to be reassured and followed commands to lower his arms, relax
his neck, and close his mouth. He was able to tell me his name
and answer basic questions but his speech was hesitant, and 
voice
tremulous. 

He was given 1g Keppra, 2mg lorazepam, 25g glucose, 650mg
acetaminophem, and 3L IVF. Over the subsequent hour, his
tremulousness improved and speech became more fluid, though he
endorsed "still feeling a bit out of it". 

He has no history of seizure, head trauma, febrile seizures in
infancy, or other neurological conditions. 

He underwent cardiac work-up ___ years ago for substernal chest
pain. He had an echo and chest CT with contrast which were 
normal
and he was ultimately diagnosed with GERD. However, he did not
agree with that diagnosis as it did not feel like acid reflux. 
He
believes it was musculoskeletal because it was exacerbated by
shoulder extension and by deep breaths (?possibly pectoral 
strain
or costochondritis). 

He had a left retinal detachment which surgical repair that was
complicated by narrow angle glaucoma in that eye. 

 
Past Medical History:
Left retinal detachment with surgical complication resulting in
narrow angle glaucoma in that eye. 
 
Social History:
___
Family History:
Non-contributory. 
 
Physical Exam:
ADMISSION PHYSICAL EXAM:
-Vitals: T:100.8  BP:139/88  HR:115  RR:20  SaO2:99%
-General: Awake, cooperative. (See HPI for initial impression)
-HEENT: NC/AT. No scleral icterus noted. MMM. No lesions noted 
in
oropharynx.
-Neck: Supple. No nuchal rigidity.
-Cardiac: RRR. Well perfused. 
-Pulmonary: Breathing comfortably on room air.
-Abdomen: Soft, NT/ND. 
-Extremities: No cyanosis, clubbing, or edema bilaterally. 2+
radial pulses.
-Skin: No rashes or other lesions noted.

NEUROLOGIC EXAM:
-Mental Status: Alert, oriented x 4. Initially had poor memory 
of
events surrounding collapse during race, later able to recall he
was nearing the end of the race and was "pushing hard" and 
"going
all out". Attentive, able to name ___ backward slowly but
accurately. Language is fluent with intact repetition and
comprehension, initially slightly delayed responses and hesitant
speech, ~1hr later more fluid. Normal prosody. There are no
paraphasic errors. Able to name both high and low frequency
objects. Speech is not dysarthric. Able to follow both midline
and appendicular commands. There is no evidence of neglect.

-Cranial Nerves:
I: Olfaction not tested.
II: Pupils R=3.5mm, L=2.5mm, both briskly reactive. (Anisocoria
decreased in degree from that initially reported by ED staff).
VFF to confrontation and no extinction. 
III, IV, VI: EOMI without nystagmus. 
V: Facial sensation intact to light touch.
VII: No facial droop, facial musculature symmetric.
VIII: Hearing grossly intact to speech.
IX, X: Palate elevates symmetrically.
XI: ___ strength in trapezii and SCM bilaterally.
XII: Tongue protrudes in midline and equal strength bilaterally.

-Motor: Normal bulk, tone throughout. No pronator drift
bilaterally. Coarse trembling of limbs (as in chills),
exacerbated (larger amplitude and more irregular) with
confrontational testing. 
  Delt Bic Tri WrE FFl FE IO IP Quad Ham TA ___
L  5    ___   5  5     5   5    5  5     5     5   
R  5    ___   5  5     5   5    5  5     5     5   

-Sensory: No deficits to light touch throughout. No extinction 
to
DSS.

-DTRs:
  Bi Tri ___ Pat Ach 
L  2  0    1    2   2   
R  2  0    1    2   2  
Suprapatellar response present bilaterally. 
Plantar response was flexor bilaterally.

-Coordination: FNF accurate in proportion to tremor. Repetitive
finger tapping symmetric and with good speed. 

-Gait: Deferred. 
===============================================

DISCHARGE PHYSICAL EXAM:

-MS: AAO x 3. Speech fluent. No dysarthria. Able to repeat. 
Memory ___ with recall. 

-Cranial Nerves:
I: Olfaction not tested.
II: Pupils R=3.5mm and reactive, L=2.5mm and non-reactive. 
VFF to confrontation and no extinction. 
III, IV, VI: EOMI without nystagmus. 
V: Facial sensation intact to light touch.
VII: No facial droop, facial musculature symmetric.
VIII: Hearing grossly intact to speech.
IX, X: Palate elevates symmetrically.
XI: ___ strength in trapezii and SCM bilaterally.
XII: Tongue protrudes in midline and equal strength bilaterally.

-Motor: Normal bulk, tone throughout. No pronator drift
bilaterally. 
  Delt Bic Tri WrE FFl FE IP Quad Ham TA ___ 
L  5    ___   ___  5    5   5    5     5
R  5    ___   ___   ___    5     5

-Sensory: No deficits to light touch throughout. No extinction 
to
DSS.

-Coordination: FNF intact. 

 
Pertinent Results:
ADMISSION LABS:
___ 10:04AM BLOOD WBC-9.2 RBC-5.22 Hgb-15.0 Hct-45.7 MCV-88 
MCH-28.7 MCHC-32.8 RDW-14.4 RDWSD-45.9 Plt ___
___ 10:04AM BLOOD Neuts-56.3 ___ Monos-3.3* Eos-1.2 
Baso-0.3 Im ___ AbsNeut-5.18 AbsLymp-3.54 AbsMono-0.30 
AbsEos-0.11 AbsBaso-0.03
___ 10:04AM BLOOD ___ PTT-25.3 ___
___ 10:04AM BLOOD ___ 10:04AM BLOOD Glucose-71 UreaN-17 Creat-1.5* Na-143 
K-4.6 Cl-106 HCO3-17* AnGap-25*
___ 10:04AM BLOOD ALT-70* AST-63* CK(CPK)-171 AlkPhos-68 
TotBili-0.9
___ 10:04AM BLOOD Lipase-72*
___ 10:04AM BLOOD cTropnT-<0.01
___ 10:04AM BLOOD Albumin-4.8 Calcium-10.1 Phos-1.1* Mg-2.0
___ 10:04AM BLOOD ASA-NEG Ethanol-NEG Acetmnp-NEG 
Bnzodzp-NEG Barbitr-NEG Tricycl-NEG

DISCHARGE LABS:
___ 05:25AM BLOOD Glucose-67* UreaN-15 Creat-0.8 Na-144 
K-3.8 Cl-107 HCO3-24 AnGap-16
___ 05:25AM BLOOD ALT-147* AST-156* LD(LDH)-293* 
CK(CPK)-244 AlkPhos-48 Amylase-290* TotBili-1.0

IMAGING:
CT HEAD ___:
1. No acute intracranial process. 
2. Nonspecific 2 mm calcification at the left posterior globe. 
Absence of 
normal lens in the left eye may be postsurgical. 

EEG ___ (final read pending):
normal, one pushbutton for eyelid fluttering, excess beta 
activity 
 
Brief Hospital Course:
Mr. ___ is a healthy ___ man with a history of left
retinal detachment complicated by post-surgical glaucoma, who
presents after collapsing during 10K footrace and an episode of 
decreased responsiveness shortly afterwards. 

He was initially hyperthermic to 101.1, hypotensive, and 
tachycardic, with normal blood glucose (67-84). He also had a 
lactate of 6.9 and hypophosphatemia, but sodium and calcium were 
normal. He improved rapidly with IVF administration with 
correction of electrolytes. 

He had an episode of diffuse tremulousness and feeling of 
impending doom that were treated in the ED as potential seizure, 
though these are not classic especially because he was following 
commands and remembers the whole episode. He did receive Keppra 
and Ativan, but these were not continued given low suspicion for 
seizure. He underwent EEG monitoring which was normal.   

The initial findings of fever, hypotension, and confusion
are consistent with heat exhaustion, likely due to
inadequate hydration and lack of adaptation to running in warm
weather. The collapse may have also been secondary to cardiac 
arrhythmia resulting in convulsive syncope and will require an 
outpatient echocardiogram and possible telemetry monitoring to 
complete the syncopal work up. 

The patient also had elevated transaminases to the 150s, which 
were evaluated with a RUQ ultrasound which was normal and should 
be trended to make sure that they normalize. 

Follow-up:
[ ] complete syncopal work-up with TTE and Holter
[ ] trend LFTs to ensure they normalize
[ ] You are able to drive and operate machinery as you did not 
have a seizure 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Dorzolamide 2%/Timolol 0.5% Ophth. 1 DROP LEFT EYE QAM 
2. travoprost 0.004 % ophthalmic QHS 

 
Discharge Medications:
1.  Dorzolamide 2%/Timolol 0.5% Ophth. 1 DROP LEFT EYE QAM  
2.  travoprost 0.004 % ophthalmic QHS  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Heat exhaustion
Elevated transaminases

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___, 

You were admitted to ___ with concern for collapse and 
possible seizure. We do not think you had a seizure, but rather 
had heat exhaustion and dehydration. We gave you intravenous 
fluids and you improved. You were monitored on EEG and did not 
have any evidence of seizures. It will be important to rule out 
a cardiac (heart) cause of your collapse and this should be done 
through your PCP. Of note, in the state of MA, you are not 
allowed to drive for 6 months after any unexplained loss of 
consciousness.  

Additionally, you were found to have elevated liver function 
tests and underwent an ultrasound. It is important for you to 
follow-up with your primary care physician to make sure these 
normalize. 

It was a pleasure taking care of you, 
Your ___ Neurologists

 
Followup Instructions:
___